US08877968B2
2.1 g (8.9 mmol) of 1-(4-cyclohexylpiperidin-4-yl)butan-1-one, 2.6 g (8.9 mmol) of (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionic acid, 1.88 g (9.8 mmol) of EDC and 1.2 g (9.8 mmol) of HOBT are dissolved in 30 mL of DMF. The mixture is stirred at room temperature for 2 hours. The solution is washed with aqueous 2.5% citric acid solution and extracted with ethyl acetate. The organic phase is washed with aqueous 10N NaOH solution and then dried over sodium sulfate, filtered and concentrated. The crude product is chromatographed on silica gel (eluent: 70/30 heptane/ethyl acetate). 1.4 g of tert-butyl[(R)-2-(4-butyryl-4-cyclohexylpiperidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]carbamate in the form of a colourless oil are obtained in a yield of 31%.

reactant | 1-(4-cyclohexylpiperidin-4-yl)butan-1-one | 8.9 mmol, 2.1 g | C1(CCCCC1)C1(CCNCC1)C(CCC)=O | C15H27NO
reactant | (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionic acid | 8.9 mmol, 2.6 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
reactant | EDC | 9.8 mmol, 1.88 g
reactant | HOBT | 9.8 mmol, 1.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl[(R)-2-(4-butyryl-4-cyclohexylpiperidin-1-yl)-1-(4-methoxybenzyl)-2-oxoethyl]carbamate | 1.4 g, yield of 31% | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCC(CC1)(C1CCCCC1)C(CCC)=O)CC1=CC=C(C=C1)OC)=O | C30H46N2O5
